US04070366
2,4-Dimethyl-5-ethyl-3-carbethoxy-pyrrole
2,4-Dimethyl-3-carbethoxy-pyrrole (0.668 g) was dissolved in a mixture of hydriodic acid (10 ml), acetic anhydride (10 ml) and hypophosphorous acid (2 ml). Paraldehyde (0.75 ml) was added. The solution was stirred 5 min., decolorized with phosphonium iodide, and poured into ice water. The cooled mixture was brought to pH 8 with ammonium hydroxide. The product was filtered off and distilled (90°-100°, 5 × 10-4 mm), giving colourless crystals (53%), m.p. 108°-109° after changing to prisms at 105°. For analysis, it was recrystallized from hexane as prismatic rods, m.p. 107°-109° (lit17) 106°-107°).

reactant | 2,4-Dimethyl-3-carbethoxy-pyrrole | 0.668 g | CC=1NC=C(C1C(=O)OCC)C | C9H13NO2
reactant | Paraldehyde | 0.75 ml | CC1OC(OC(O1)C)C | C6H12O3
reactant | phosphonium iodide | [I-].[PH4+]
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | hydriodic acid | 10 ml | I | HI
solvent | acetic anhydride | 10 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | hypophosphorous acid | 2 ml | [PH2](=O)O | H3O2P
product | 2,4-Dimethyl-5-ethyl-3-carbethoxy-pyrrole | 53% | CC=1NC(=C(C1C(=O)OCC)C)CC | C11H17NO2
